Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"my godfather in ___ has been doing constrictions on me"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ woman with no documented PPHx presents to ED with
approx 4 months of "constrictions" she describes as tightening 
in
her abdomen which cause SOB and light-headedness which she
believes are caused by her godfather in ___ who has been
doing this to her through sorcery.  Though she is a religious
person who believes in mystical powers at baseline, she 
considers
these events to be "disconcerting and disturbing" as well as
"strange". They have been occurring for the past ___ months but
she states they have become more frequent in the past weeks, now
happening multiple times per week.  She states that she was 
raped
by this man in ___ when he was here in ___, there is a
note from her PCP at that time which notes a similar event that
she was unwilling to elaborate on at that time.

She states that these symptoms have been frustrating and have
affected her mood but denies consistently low mood. Other than
recent weight loss related to exercise and stress she denies
neurovegetative symptoms.  Denies AH/VH. She has been praying
with a holyman which has helped her feel somewhat better about
the situation.

 
Past Medical History:
PSYCHIATRIC HISTORY (INCLUDE PRIOR HOSPITALIZATIONS, OUTPATIENT
TREATMENTS, MEDICATION/ECT HISTORY, RESPONSE TO TREATMENT,
HISTORY OF HOMICIDAL/SUICIDAL/ASSAULTIVE BEHAVIOR):
Pt denies any previous psych history other than seeing a 
___
counselor many years ago for some forgotten reason.

PAST MEDICAL HISTORY (INCLUDE HISTORY OF HEAD TRAUMA, SEIZURES,
OR OTHER NEUROLOGIC ILLNESS):
HTN
GERD
Back pain
Hx of abdominal pain, no known etiology

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Patient states that her mother was depressed at times but denies
any other family psych hx.

 
Physical Exam:
MENTAL STATUS EXAM:
--appearance: fair  grooming with good eye contact
--behavior/attitude: cooperative, exhibited no PMR, PMA
--speech: normal rate and tone 
--mood (in patient's words): "ups and downs" 
--affect: constricted affect; appropriate to the context
--thought content (describe): preoccupied with "constrictions"
being done to her by godfather in ___
--thought process: linear 
--perception: paranoid persecutory delusion as mentioned in HPI,
without AH, VH
--SI/HI: without SI , no HI; 
--insight: limited
--judgment: fair 
 
COGNITIVE EXAM:
performed by me in the ED-
COGNITIVE ASSESSMENT: 
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT): alert
          ORIENTATION: oriented to person/place/time/situation
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.): MOYB
completed
          MEMORY (SHORT- AND LONG-TERM): registration ___, 
recall
___
          CALCULATIONS: $1.75 is 7 quarters
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE): gave last
two presidents
          PROVERB INTERPRETATION: "grass is greener" means
"things are better on the other side"
          SIMILARITIES/ANALOGIES: apples/oranges - fruits, 
round,
eat them

PE:
General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 
Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally with
physiologic nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, tremors. Strength full power ___ throughout. No
pronator drift.  No gross focal motor or sensory deficits, 
normal
gait
 
Pertinent Results:
___ 05:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:30PM   SED RATE-10
___ 05:30PM   PLT COUNT-232
___ 05:30PM   NEUTS-62.7 ___ MONOS-4.5 EOS-1.7 
BASOS-0.8
___ 05:30PM   WBC-6.4 RBC-5.52* HGB-13.2 HCT-41.0 MCV-74* 
MCH-23.8* MCHC-32.1 RDW-14.0
___ 05:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 05:30PM URINE  GR HOLD-HOLD
___ 05:30PM URINE  HOURS-RANDOM
___ 05:30PM URINE  HOURS-RANDOM
___ 05:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:30PM   CRP-1.2
___ 05:30PM   ALBUMIN-4.8 CALCIUM-9.4 PHOSPHATE-2.7 
MAGNESIUM-2.5
___ 05:30PM   ALT(SGPT)-18 AST(SGOT)-19 ALK PHOS-79 TOT 
BILI-0.5
___ 05:30PM   estGFR-Using this
___ 05:30PM   GLUCOSE-103* UREA N-13 CREAT-0.9 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-107 TOTAL CO2-25 ANION GAP-15
___ 08:30AM   TSH-1.7
___ 08:30AM   VIT B12-492 FOLATE-17.6
___ 08:30AM   CK-MB-2
___ 08:30AM   CK(CPK)-76
___ 04:30PM   AMMONIA-9*
 
Brief Hospital Course:
Psychiatric: 
___ y/o F who is of the ___ religion with no past 
psych history who has bizarre delusions about her godfather in 
___ being possessed by demons and harming her because she 
knows he is no longer a healer.  She believes that he causes her 
"abdominal constrictions" which are sometimes accompanied by 
SOB, she also thinks that he can manipulate her gallbladder to 
make her nauseated and her heart to cause palpittaions on a hot 
day.  She uses only homeopathic medications at home and is quite 
resistant to trying Risperdal.  In the unit, we offered a low, 
"homeopathic" dose of Risperdal (0.25mg bid) to start, which pt 
is considering. 

Medical:
Neurology was consulted given pt has no past psychiatric 
history, the acute onset of her symptoms, and the family history 
of her mother with ___ dementia.  Her workup thus far 
(CBC, BMP, LFTs, EKG, cardiac enzymes, B12, folate, TSH and RPR) 
has been negative.  Neurology recommended further tests, which 
Ms. ___ is considering.  These tests are: an EEG, abd US, heavy 
metal screen and NMDA receptor antibody blood test.

Legal: ___
Safety: Ms. ___ was on 15 minute checks throughout her admission 
and in good behavioral control.
 
Medications on Admission:
Medications: pt not taking any prescribed medications, taking
multiple herbal supplements including Arnica ___, Rhus. Tox,
Caledonium, Symphitum, and Seven Forests ___ herbs on a PRN
basis, unknown dosages
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I. Psychosis NOS (primary psychotic illness v 2 to deteriorative
process v OTC drugs induced)
II. R/O Early Dementia
III. HTN. GERD. ?SOB
IV. Severe
V. 25

 
Discharge Condition:
Patient is alert oriented and ambulatory.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___